US05023262
A solution of 1 g (1.1 mmol) of rapamycin and 325 mg (351 μmol) of tris(triphenylphosphine) rhodium (I) chloride in 82 mL of benzene was hydrogenated at 50 psi for 4 days. The reaction was concentrated in vacuo affording a red foam. HPLC chromatography on a 2 inch HPLC column with 80% ethyl acetate/hexane as the eluant afforded 100 mg (10%) of 1,2,3,4-tetrahydrorapamycin as a white foam.

reactant | rapamycin | 1.1 mmol, 1 g | C[C@@H]1CC[C@H]2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)O)C)/C)O)OC)C)C)/C)OC | C51H79NO13
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | benzene | 82 mL | C1=CC=CC=C1 | C6H6
catalyst | tris(triphenylphosphine) rhodium (I) chloride | 351 μmol, 325 mg | [Rh]Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1,2,3,4-tetrahydrorapamycin | 100 mg, 10% | C[C@@H]1CCCCC=C([C@H](C[C@@H]2CC[C@H]([C@@](O2)(C(=O)C(=O)N3CCCC[C@H]3C(=O)O[C@@H](CC(=O)[C@@H](/C=C(\[C@H]([C@H](C(=O)[C@@H](C1)C)OC)O)/C)C)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)O)O)C)OC)C | C51H83NO13
